US05804585
B. N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[α-hydroxy-3,4-(methylenedioxy)benzyl]thieno[2,3-b]-pyridine-3-sulfonamide
To a solution of N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)thieno[2,3-b]pyridine-3-sulfonamide (0.25 g, 0.61 mmoles) in THF (10 ml) at -78° C. was added t-BuLi (1.7M, 0.46 ml, 0.79 mmoles). Thirty minutes later piperonal (0.14 g, 0.91 mmoles) in THF (2 ml) was added via cannula, as a solution. The cooling bath was removed and the reaction was stirred 1 hr. at ambient temperature and then diluted with EtOAc (50 ml) and washed with H2O (2×75 ml). The organic layer was dried (MgSO4), filtered and concentrated. Flash chromatography (40% EtOAc/hexanes) provided 0.15 g (44%) of the title compound as a white foamy solid.

reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)thieno[2,3-b]pyridine-3-sulfonamide | 0.61 mmoles, 0.25 g | ClC=1C(=NOC1N(S(=O)(=O)C1=CSC2=NC=CC=C21)COCCOC)C | C15H16ClN3O5S2
reactant | t-BuLi | 0.79 mmoles, 1.7M, 0.46 ml | [Li]C(C)(C)C
reactant | piperonal | 0.91 mmoles, 0.14 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[α-hydroxy-3,4-(methylenedioxy)benzyl]thieno[2,3-b]-pyridine-3-sulfonamide | 0.15 g, 44% | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)C(C2=CC1=C(C=C2)OCO1)O)COCCOC)C | C23H22ClN3O8S2
